US06878827B2
2-(2-aminothiazole-4-yl)-2-hydroxyiminoacetate sodium dihydrate (syn-isomer) (24.6 g) was added to water (160 ml) and stirred at 20 to 30° C. Acetic anhydride (28.7 g) was added dropwise thereto for 60 minutes. During the dropwise addition, the pH of the mixture was controlled to 6.0±0.2 by using 20% aqueous sodium carbonate. After the dropwise addition, the mixture was stirred for 30 minutes, and the pH of the mixture was adjusted to 2.5 by using 6N hydrochloric acid. After the reaction liquid was cooled to 5° C., the precipitated crystal was filtered and washed with isopropanol and acetone successively. The obtained wet crystal was dried under reduced pressure to obtain 2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid (syn-isomer) (23.9 g) including two molecules of crystal water.

reactant | 2-(2-aminothiazole-4-yl)-2-hydroxyiminoacetate sodium dihydrate | 24.6 g | O.O.[Na+].NC=1SC=C(N1)C(C(=O)[O-])=NO
reactant | Acetic anhydride | 28.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 160 ml | O | H2O
product | 2-(2-aminothiazole-4-yl)-2-acetoxyiminoacetic acid | 23.9 g | NC=1SC=C(N1)C(C(=O)O)=NOC(C)=O | C7H7N3O4S
